resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.998012
R2 0 n2 0.996334
R3 0 n4 1.001656
R4 n1 n3 0.984085
R5 n1 n5 0.981756
R6 n2 n3 1.004909
C7 n2 n6 3.1e-06
R8 n3 n7 1.019702
R9 n4 n5 1.017339
R10 n4 n6 0.990133
R11 n5 n7 1.018652
R12 n6 n7 1.013101
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
